US07888345B2
Step 1: Preparation of 6,7,9-trifluoro-1-vinyl-1,3,4,5-tetrahydro-benzo[b]azepin-2-one
A heavy-walled sealable 100 mL tube containing copper (I) iodide (0.088 g, 0.46 mmol), potassium carbonate (1.57 g, 11.4 mmol) and 6,7,9-trifluoro-1,5-dihydro-benzo[b]azepin-2-one (1.02 g, 4.74 mmol, prepared from commercially available 2-bromo-3,4,6-trifluoroaniline via application of Steps 1-3 of the procedure used for the synthesis of Examples 73 and 74) was fitted with a stirbar and septa and flushed with nitrogen. Toluene (5.0 mL), N,N′-dimethylethylene diamine (0.10 mL, 0.93 mmol) and vinyl bromide (10.0 mL, 1.0 M solution in tetrahydrofuran (THF), 10.0 mmol) were then added, in that order. The septa was removed, the reaction vessel was sealed tightly with a teflon screwcap and then placed in a pre-heated 110° C. oil bath. After 24 hours, the reaction was cooled to room temperature, poured into 1:1 H2O:saturated aqueous NaCl solution (50 mL) and extracted with methylene chloride (3×30 mL). The organic extracts were combined, dried over MgSO4, filtered and concentrated in vacuo to give an oil that was purified via flash chromatography on silica gel (0% to 30% ethyl acetate/hexanes linear gradient) to give the desired product.

reactant | potassium carbonate | 11.4 mmol, 1.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6,7,9-trifluoro-1,5-dihydro-benzo[b]azepin-2-one | FC1=C(C=C(C=2NC(C=CCC21)=O)F)F | C10H6F3NO
reactant | 2-bromo-3,4,6-trifluoroaniline | BrC1=C(N)C(=CC(=C1F)F)F | C6H3BrF3N
reactant | N,N′-dimethylethylene diamine | 0.93 mmol, 0.10 mL | CNCCNC | C4H12N2
reactant | vinyl bromide | 10.0 mmol, 1.0 M, 10.0 mL | C(=C)Br | C2H3Br
catalyst | copper (I) iodide | 0.46 mmol, 0.088 g | [Cu]I
solvent | Toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
product | 6,7,9-trifluoro-1-vinyl-1,3,4,5-tetrahydro-benzo[b]azepin-2-one | FC1=C(C=C(C=2N(C(CCCC21)=O)C=C)F)F | C12H10F3NO
